US04061861
A mixture of 24.4 grams (0.2 mole) of N-methyl-o-phenylenediamine and 14.4 grams (0.24 mole) of urea was prepared. The mixture was stirred for 16 hours in an oil bath maintained at 175° C. The reaction mixture then was cooled to about 80° C., 250 ml. of alcohol were added, and the mixture was refluxed for 20 minutes and then was filtered while hot. The filtrate was allowed to cool to room temperature and was refrigerated overnight. The crystals that formed were filtered, dried, and recrystallized from water to obtain 7.84 grams of 3-methyl-2-oxobenzimidazole, melting point 188°-189° C.

reactant | N-methyl-o-phenylenediamine | 0.2 mole, 24.4 grams | CNC1=C(C=CC=C1)N | C7H10N2
reactant | urea | 0.24 mole, 14.4 grams | NC(=O)N | CH4N2O
product | 3-methyl-2-oxobenzimidazole | 7.84 grams | CN1C(NC2=C1C=CC=C2)=O | C8H8N2O
